US07977362B2
A solution of 4-chloro-N-(4-cyanobenzyl)-N-(trans-2-(hydroxymethyl)cyclopentyl)benzenesulfonamide (211 mg, 0.521 mmol) and 50% aqueous hydroxylamine (250 uL) was refluxed in ethanol (7 mL) overnight. The reaction was concentrated to dryness by rotary evaporation and co-evaporation with benzene. The dry amideoxime intermediate was then refluxed in triethylorthoformate (8 mL) under nitrogen for 5 h. After cooling to room temperature, boron trifluoride etherate (approximately 250 uL) was added and the reaction stirred overnight. The reaction was partitioned between ethyl acetate (25 mL) and brine (25 mL). The organic layer was concentrated and purified by flash chromatography on a 40 g silica gel column using a gradient of 10 to 60% ethyl acetate in hexane over 50 min to give N-(4-(1,2,4-oxadiazol-3-yl)benzyl)-4-chloro-N-(trans-2-(hydroxymethyl)cyclopentyl)benzenesulfonamide (118 mg, 51%). 1H NMR (400 MHz, CDCl3) δ ppm 8.75 (1H, s), 8.03 (2H, d), 7.70 (2H, d, J=8.56 Hz), 7.48 (2H, d, J=8.31 Hz), 7.43 (2H, d, J=8.56 Hz), 4.67 (1H, d, J=16.37 Hz), 4.106 (1H, d, J=16.37 Hz), 3.93-4.06 (1H, m), 3.33-3.61 (2H, m), 1.28-1.75 (8H, m). LC/MS R.T.=2.90 min; [M+H]+=448.16. HRMS [M+H]+ calc'd 448.1098, found 448.1087.

reactant | 4-chloro-N-(4-cyanobenzyl)-N-(trans-2-(hydroxymethyl)cyclopentyl)benzenesulfonamide | 0.521 mmol, 211 mg | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@@H](CCC1)CO)CC1=CC=C(C=C1)C#N | C20H21ClN2O3S
reactant | hydroxylamine | 250 uL | NO | H3NO
reactant | ethanol | 7 mL | C(C)O | C2H6O
product | N-(4-(1,2,4-oxadiazol-3-yl)benzyl)-4-chloro-N-(trans-2-(hydroxymethyl)cyclopentyl)benzenesulfonamide | 118 mg, 51% | O1N=C(N=C1)C1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)Cl)[C@H]2[C@@H](CCC2)CO)C=C1 | C21H22ClN3O4S
